US09259470B2
A mixture of (1H-indol-2-yl)methanol (8.00 g, 54.4 mmol) and 2-iodoxybenzoic acid (“IBX”) (40.0 g, 0.163 mol) in ethyl acetate (200 mL) was stirred at 80° C. for 16 hours. The solid was filtered off, and the filtrate was concentrated. The residue was purified by silica gel column chromatography eluting with petroleum ether/ethyl acetate (50:1) to give 1H-indole-2-carbaldehyde (4.0 g, 50% yield) as a solid. LCMS (ESI) m/z: 146.1 [M+H]+.

reactant | (1H-indol-2-yl)methanol | 54.4 mmol, 8.00 g | N1C(=CC2=CC=CC=C12)CO | C9H9NO
reactant | 2-iodoxybenzoic acid | 0.163 mol, 40.0 g | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1H-indole-2-carbaldehyde | 4.0 g, 50% yield | N1C(=CC2=CC=CC=C12)C=O | C9H7NO
